US07872009B2
(2R)-N-((1S,2R)-3-(((4S)-6-bromo-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-4-yl)amino)-2-hydroxy-1-(phenylmethyl)propyl)-4-((4-propyl-1H-1,2,3-triazol-1-yl)acetyl)-2-morpholinecarboxamide
In a 15-mL RBF, the 4-(2-(4-propyl-1H-1,2,3-triazol-1-yl)acetyl)morpholine-2-carboxylic acid (0.034 g, 0.11 mmol) as the crude lithium salt and (2R,3S)-3-amino-1-((S)-6-bromo-2,2-dimethylchroman-4-ylamino)-4-phenylbutan-2-ol (0.046 g, 0.11 mmol) were taken up in DMF (1.5 mL). When the solids had dissolved, HATU (0.041 g, 0.11 mmol) was added. After 14 h, the reaction was concentrated, and the residue was taken up in EtOAc (60 mL) and the organic layer was extracted with water (5 mL), dried over sodium sulfate and concentrated. The residue was purified through silica gel (15 mL) which had been deactivated with TEA (2.0 mL) eluting with 4% MeOH-EtOAc, to afford the title compound as a 1:1 mixture of diastereomers. MS m/z 695/697 (M+1).

reactant | 4-(2-(4-propyl-1H-1,2,3-triazol-1-yl)acetyl)morpholine-2-carboxylic acid | 0.11 mmol, 0.034 g | C(CC)C=1N=NN(C1)CC(=O)N1CC(OCC1)C(=O)O | C12H18N4O4
reactant | lithium | [Li] | Li
reactant | (2R,3S)-3-amino-1-((S)-6-bromo-2,2-dimethylchroman-4-ylamino)-4-phenylbutan-2-ol | 0.11 mmol, 0.046 g | N[C@H]([C@@H](CN[C@H]1CC(OC2=CC=C(C=C12)Br)(C)C)O)CC1=CC=CC=C1 | C21H27BrN2O2
reactant | HATU | 0.11 mmol, 0.041 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | (2R)-N-((1S,2R)-3-(((4S)-6-bromo-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-4-yl)amino)-2-hydroxy-1-(phenylmethyl)propyl)-4-((4-propyl-1H-1,2,3-triazol-1-yl)acetyl)-2-morpholinecarboxamide | BrC=1C=C2[C@H](CC3(CCC3)OC2=CC1)NC[C@H]([C@H](CC1=CC=CC=C1)NC(=O)[C@H]1CN(CCO1)C(CN1N=NC(=C1)CCC)=O)O | C34H43BrN6O5
